US04224329
A mixture of 41 g. (0.25 mole) of 5-hydroxy-5-phenylvaleronitrile, obtained from 4-benzoylbutyronitrile by lithium borohydride reduction by the procedure of Colonge et. al., Bull. Soc. Chem. France, 2005-2011 (1966); Chem. Abstr., 65, 18547d (1966), and 0.30 mole of potassium hydroxide in 200 ml. of water was heated at reflux for eight hours. The mixture was cooled to room temperature and neutralized with 10 M hydrochloric acid, saturated with sodium chloride and extracted with ether several times. The extracts were washed with water, dried (Na2SO4) and the ether evaporated to obtain dl-5-phenyl-5-hydroxyvaleric acid lactone which was recrystallized from dilute alcohol, M.P. 62.5° C., 79% yield.

reactant | 4-benzoylbutyronitrile | C(C1=CC=CC=C1)(=O)CCCC#N | C11H11NO
reactant | lithium borohydride | [BH4-].[Li+]
product | 5-hydroxy-5-phenylvaleronitrile | 0.25 mole | OC(CCCC#N)C1=CC=CC=C1 | C11H13NO
